US04534905
The industrially important 8-nitronaphthalene-1,3,5-trisulphonic acid is prepared by nitrating the naphthalene-trisulphonic acid mixture which is obtained in the trisulphonation of naphthalene with sulphuric acid and oleum and which contains naphthalene-1,3,5-trisulphonic acid as the main constituent, with nitric acid using sulphuric acid as the solvent (see F.I.A.T. Final Report No. 1016, pages 42-44). According to this process, the hot solution, of the naphthalenetrisulphonic acids in sulphuric acid, which has a temperature of 90° C. and is obtained in the trisulphonation of naphthalene is transferred to the nitration kettle and, after cooling to 60° C., diluted with water and nitrated with mixed acid (86% of nitric acid, 12% of sulphuric acid and 2% of water) at 30° to 35° C. The nitration mixture is subsequently stirred at 40° C. for 1 hour. As a repetition of the process has shown, the yield of 8-nitronaphthalene-1,3,5-trisulphonic acid is only about 46%, relative to the naphthalene-1,3,5-trisulphonic acid employed (see Example 16 of the present Application).

reactant | naphthalene-1,3,5-trisulphonic acid | C1(=CC(=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O9S3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
